US04356165
o-Chlorophenol (64 g, 0.5 mole) and propionyl chloride (50 g, 0.55 mole) were mixed at room temperature and then heated at 100° C. (steam bath) for 2-3 hrs. Hydrogen chloride gas was evolved. After 2-3 hrs the reaction mixture was distilled in vacuo and gave 78.8 g (86%) of o-chlorophenyl propionate, bp11mm =111° C.

reactant | o-Chlorophenol | 0.5 mole, 64 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | propionyl chloride | 0.55 mole, 50 g | C(CC)(=O)Cl | C3H5ClO
reactant | Hydrogen chloride | Cl | ClH
product | o-chlorophenyl propionate | 78.8 g, 86% | C(CC)(=O)OC1=C(C=CC=C1)Cl | C9H9ClO2
